US09259426B2
6-bromo-2-(methylthio)-quinazolin-4-ol
A solution of 6-bromo-2-mercapto-quinazolin-4-ol (0.32 g, 1.26 mmol), methyl iodide and sodium ethoxide in DMF (5 mL) was stirred at room temperature for 3 hours. HCl (1N, 3 ml) was added and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated to provide 0.31 g of crude product which was used without further purification. The product was characterized as follows: MS (m/z) 271 [M+H]+; HPLC retention time (Rt)=1.87 minutes (Method B).

reactant | 6-bromo-2-mercapto-quinazolin-4-ol | 1.26 mmol, 0.32 g | BrC=1C=C2C(=NC(=NC2=CC1)S)O | C8H5BrN2OS
reactant | methyl iodide | CI | CH3I
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1N, 3 ml | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-bromo-2-(methylthio)-quinazolin-4-ol | 0.31 g | BrC=1C=C2C(=NC(=NC2=CC1)SC)O | C9H7BrN2OS
